### PR TITLE
[Merged by Bors] - feat(RingTheory/HahnSeries/Basic): Make a Hahn series from a function with support bounded below

### PR DESCRIPTION
**Pull request by ScottCarnahan**
Given a locally finite linearly ordered set `Γ` and a function `f` on `Γ` whose support is bounded below, we produce a Hahn series whose coefficients are given by `f`.  We introduce a theorem (borrowing from mathlib3 #18604) for translating the vanishing condition to the partially well-ordered support condition that is used in the definition of Hahn Series.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 1]
```diff
@@ -33,10 +35,41 @@ abbrev LaurentSeries (R : Type*) [Zero R] :=
...
-variable {R : Type u}
+variable {R : Type*}
 
 namespace LaurentSeries
 
+section Zero
+
+variable [Zero R]
+
+-- generalize to any locally finite linear order? see #18604
```
Comment (jcommelin) [inline Mathlib/RingTheory/LaurentSeries.lean:46]: I suppose this is referring to a mathlib3 PR?

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 2]
```diff
@@ -33,10 +35,41 @@ abbrev LaurentSeries (R : Type*) [Zero R] :=
...
+  exact Int.not_lt.mp (mt (hn (g k)) (hsupp k))
+  exact (StrictAnti.le_iff_le hg).mpr (Nat.zero_le k)
+
+/-- Construct a Laurent series from any function with support that is bounded below. -/
+def LaurentFromSuppBddBelow (f : ℤ → R) (n : ℤ) (hn : ∀(m : ℤ), m < n → f m = 0) :
+    LaurentSeries R :=
+  {
+    coeff := f
+    isPwo_support' := supp_bdd_below_supp_Pwo f n hn
+  }
```
Comment (jcommelin) [inline Mathlib/RingTheory/LaurentSeries.lean:65]:
```suggestion
    LaurentSeries R where
  coeff := f
  isPwo_support' := supp_bdd_below_supp_Pwo f n hn
```

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/LaurentSeries.lean]: Yes, that's right.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 3]
```diff
@@ -33,10 +35,39 @@ abbrev LaurentSeries (R : Type*) [Zero R] :=
...
 
 namespace LaurentSeries
 
+section Zero
+
+variable [Zero R]
+
+-- generalize to any locally finite linear order? see mathlib3 PR #18604
+theorem supp_bdd_below_supp_Pwo (f : ℤ → R) (n : ℤ) (hn : ∀(m : ℤ), m < n → f m = 0) :
+    (Function.support f).IsPwo := by
```
Comment (urkud) [inline Mathlib/RingTheory/LaurentSeries.lean:48]: Please merge `master`, then fix lower/upper cases: `IsPwo` was renamed to `IsPWO` and `IsWf` to `IsWF`.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 4]
```diff
@@ -33,10 +35,39 @@ abbrev LaurentSeries (R : Type*) [Zero R] :=
...
+
+/-- Construct a Laurent series from any function with support that is bounded below. -/
+def LaurentFromSuppBddBelow (f : ℤ → R) (n : ℤ) (hn : ∀(m : ℤ), m < n → f m = 0) :
+    LaurentSeries R where
+  coeff := f
+  isPwo_support' := supp_bdd_below_supp_Pwo f n hn
+
+@[simp]
+theorem coeff_LaurentFromSuppBddBelow (f : ℤ → R) (m n : ℤ) (hn : ∀(m : ℤ), m < n → f m = 0) :
+    coeff (LaurentFromSuppBddBelow f n hn) m = f m := by exact rfl
```
Comment (urkud) [inline Mathlib/RingTheory/LaurentSeries.lean:67]: Make it a `dsimp` lemma:
```suggestion
    coeff (LaurentFromSuppBddBelow f n hn) m = f m := rfl
```
BTW, does `@[simps]` on the previous definition work?

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 5]
```diff
@@ -33,10 +35,39 @@ abbrev LaurentSeries (R : Type*) [Zero R] :=
...
+  refine Set.infinite_range_of_injective (StrictAnti.injective hg) ?_
+  refine (Set.finite_Icc n <| g 0).subset <| Set.range_subset_iff.2 ?_
+  simp_all only [Function.mem_support, ne_eq, Set.mem_Icc]
+  intro k
+  constructor
+  exact Int.not_lt.mp (mt (hn (g k)) (hsupp k))
+  exact (StrictAnti.le_iff_le hg).mpr (Nat.zero_le k)
+
+/-- Construct a Laurent series from any function with support that is bounded below. -/
+def LaurentFromSuppBddBelow (f : ℤ → R) (n : ℤ) (hn : ∀(m : ℤ), m < n → f m = 0) :
```
Comment (urkud) [inline Mathlib/RingTheory/LaurentSeries.lean:60]: We usually use `Of`, not `From`.
```suggestion
@[simps]
def LaurentSeries.ofForallLtEqZero (f : ℤ → R) (n : ℤ) (hn : ∀(m : ℤ), m < n → f m = 0) :
```
Also,

- there is no `BddBelow` in the assumptions;
- do you plan to have a lemma like "the minimal order of a Laurent series constructed this way is at least `n`"? If no, then it makes sense to move `n` inside `∃ n, ∀ m < n, _` or `f =ᶠ[atBot] 0`.

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/LaurentSeries.lean]: I put a Set.bddBelow_wellFoundedOn_lt result in Mathlib.Order.WellFoundedSet.  This can be combined with Set.isWF_iff_isPWO.

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 5 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/LaurentSeries.lean]: I changed the def to use `Bdd Below`, and added lemmas connecting explicit bounds to the `BddBelow` condition and the order of the resulting series.

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 4 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/LaurentSeries.lean]: I'm not sure how to find that out, but I will investigate.

Comment (urkud) [reply Mathlib/RingTheory/LaurentSeries.lean]: You can put `@[simps?]` on the definition, then it'll show generated lemmas in a message. If you're happy with these lemmas, then you can remove the question mark and this lemma.

File: Mathlib/Order/WellFoundedSet.lean [hunk 6]
```diff
@@ -694,6 +694,19 @@ theorem IsWF.min_union (hs : s.IsWF) (hsn : s.Nonempty) (ht : t.IsWF) (htn : t.N
 
 end LinearOrder
 
+section LocallyFiniteOrder
+
+variable {s : Set α} [Preorder α] [LocallyFiniteOrder α]
+
+theorem bddBelow_wellFoundedOn_lt : BddBelow s → s.WellFoundedOn (· < ·) := by
```
Comment (urkud) [inline Mathlib/Order/WellFoundedSet.lean:701]: Please move it out of the `Set` namespace and call it
```suggestion
theorem BddBelow.wellFoundedOn_lt : BddBelow s → s.WellFoundedOn (· < ·) := by
```
This will allow dot notation.

Also, please add the dual lemma `BddAbove.wellFoundedOn_gt` (you can prove it by `h.dual.wellFoundedOn_lt`).

Comment (urkud) [reply Mathlib/Order/WellFoundedSet.lean]: It was `BddBelow.`, not `BddBelow_`. Otherwise, dot notation won't work.

Comment (ScottCarnahan) [reply Mathlib/Order/WellFoundedSet.lean]: Oops, sorry about that oversight.  I was wondering why `h.dual.wellFoundedOn_lt` didn't work.

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 7]
```diff
@@ -35,10 +35,51 @@ abbrev LaurentSeries (R : Type*) [Zero R] :=
...
+@[simps]
+def ofSuppBddBelow (f : ℤ → R) (hf : BddBelow (Function.support f)) : LaurentSeries R where
+  coeff := f
+  isPWO_support' := suppBddBelow_supp_PWO f hf
+
+theorem BddBelow_zero : BddBelow (Function.support (0 : ℤ → R)) := by
+  simp_all only [Function.support_zero', bddBelow_empty]
+
+theorem zero_ofSuppBddBelow : ofSuppBddBelow 0 BddBelow_zero = (0 : LaurentSeries R) := by
+  exact rfl
```
Comment (adamtopaz) [inline Mathlib/RingTheory/LaurentSeries.lean:67]: does `:= rfl` work here? Also, this should be tagged with `simp`.

**Review by awainverse — COMMENTED** [review]
This work looks good!

All of these results will still hold for Hahn series whose value group has a locally finite order. It would be good to try generalizing to that level to cover multivariate Laurent series also. If that doesn't work for some reason, I am still willing to approve this PR.

**Comment by YaelDillies** [comment]
Hey! Thanks for adding the content of https://github.com/leanprover-community/mathlib/pull/18604. In the future, could you give some pointers on the original PR/tell me directly? I had no idea that this PR added my lemmas to mathlib and I was about to port https://github.com/leanprover-community/mathlib/pull/18604.

**Comment by ScottCarnahan** [comment]
@YaelDillies I'm really sorry about that.  I'll let you know if this happens in the future.

**Comment by YaelDillies** [comment]
No trouble! I really don't mind people PRing my code, but I do want to track when that happens, so as to avoid duplicating work.
